US07893059B2
5-(2-(2-methoxypropan-2-yl)-7-morpholinothiazolo[5,4-d]pyrimidin-5-yl)pyrimidin-2-amine 104
Crude 4-(5-chloro-2-(2-methoxypropan-2-yl)thiazolo[5,4-d]pyrimidin-7-yl)morpholine (60 mg) was reacted with 2-aminopyrimidine-5-boronic acid pinacol ester via general procedure A with to get 55 mg 104 following reverse phase HPLC purification. MS (Q1) 388.2 (M)+.

reactant | 4-(5-chloro-2-(2-methoxypropan-2-yl)thiazolo[5,4-d]pyrimidin-7-yl)morpholine | 60 mg | ClC=1N=C(C2=C(N1)SC(=N2)C(C)(C)OC)N2CCOCC2 | C13H17ClN4O2S
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
product | 5-(2-(2-methoxypropan-2-yl)-7-morpholinothiazolo[5,4-d]pyrimidin-5-yl)pyrimidin-2-amine | COC(C)(C)C=1SC=2N=C(N=C(C2N1)N1CCOCC1)C=1C=NC(=NC1)N | C17H21N7O2S
